Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, "muscle spasm" in chest
 
Major Surgical or Invasive Procedure:
Cardiac catheterization (right radial access) ___

 
History of Present Illness:
Ms. ___ is a ___ without significant PMH presented to ___ 
___ with progressive abdominal pain, chills, nausea, and 
developed intermittent muscle spasms in her chest, transferred 
to ___ after Troponin found to be elevated.

She initially reported to ___ nurse phone line that she had 
abdominal pain, initially periumbilical, then radiating to both 
sides of lower abdomen and becoming more diffuse, started ~3 pm 
___. Around 4 pm she developed a "muscle spasm" in her chest 
that traveled up to her neck, was not associated with heartburn. 
Took Zantac and TUMS without effect, then proceeded to OSH ED. 
Denied significant CP/SOB, fever, vomiting, or diarrhea. Did 
report feeling gassy. Had BM on day of admission, reportedly 
"normal."

Abdominal pain improved without intervention and she remained 
symptom free in OSH ED. CT A/P reportedly with no acute process. 
LFTs mildly elevated but appeared at baseline per Atrius 
records.

EKG showed poor R wave progression, possible RSR' in V1 or V2, 
right VCD or RVH, no ischemic changes.

Troponin noted to be 0.02, then 0.03, therefore patient was 
transferred to ___ for further evaluation. Received Asa 325 
@11pm ___ SQ, Lovenox @ 6am ___ prior to transfer.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hyperglycemia without diagnosed diabetes
- Dyslipidemia without previous statin 
2. CARDIAC HISTORY
- Mitral valve prolapse diagnosed in her ___
3. OTHER PAST MEDICAL HISTORY  
Anxiety
Bronchoconstriction
Elevated LFTs / Fatty liver
Episcleritis of right eye 
 
Social History:
___
Family History:
No FH premature CAD, no sudden cardiac death, arrhythmias

Mother: leukemia, DVT in ___ I/s/o leukemia, DM in ___
Father:  Cancer - ___ bladder cancer 
Maternal Grandfather: cancer 
___ Grandmother: ___, MI in her ___ 
Paternal Grandfather: cancer
Sister: Cancer - Breast 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 98.1 BP 144/86 HR 87 RR 19 O2 SAT 99 RA  
GENERAL: WDWN ___ in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP not elevated.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Trace ___ edema, WWP, no cyanosis. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 
Punctate forearm excorations
PULSES: 2+ DPs 

DISCHARGE PHYSICAL EXAM:
VS: T 97.7 BP 125/79 HR 76 RR 19 O2 SAT 99 RA  
GENERAL:  Oriented x3. Mood, affect appropriate despite headache
HEENT: NCAT. Sclera anicteric.   
NECK: Supple with JVP flat.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No ___ edema, WWP, no cyanosis. 
SKIN: No rashes
 
Pertinent Results:
ADMISSION LABS:
----------------
___ 07:35AM BLOOD WBC-7.5 RBC-4.73 Hgb-14.6 Hct-42.8 MCV-91 
MCH-30.9 MCHC-34.1 RDW-12.1 RDWSD-39.8 Plt ___
___ 07:35AM BLOOD Neuts-64.7 ___ Monos-6.7 Eos-2.4 
Baso-0.8 Im ___ AbsNeut-4.86 AbsLymp-1.88 AbsMono-0.50 
AbsEos-0.18 AbsBaso-0.06
___ 07:35AM BLOOD ___ PTT-36.0 ___
___ 07:35AM BLOOD Glucose-108* UreaN-11 Creat-0.7 Na-140 
K-3.8 Cl-101 HCO3-23 AnGap-20
___ 07:35AM BLOOD ALT-54* AST-39 LD(LDH)-378* CK(CPK)-253* 
AlkPhos-72 TotBili-0.3
___ 07:35AM BLOOD cTropnT-0.02*
___ 07:35AM BLOOD CK-MB-5
___ 07:35AM BLOOD Albumin-4.0 Cholest-193
___ 07:35AM BLOOD %HbA1c-5.8 eAG-120
___ 07:35AM BLOOD Triglyc-114 HDL-53 CHOL/HD-3.6 
LDLcalc-117

DISCHARGE LABS:
----------------
___ 07:40AM BLOOD WBC-6.6 RBC-4.23 Hgb-12.9 Hct-38.6 MCV-91 
MCH-30.5 MCHC-33.4 RDW-12.5 RDWSD-41.5 Plt ___
___ 07:40AM BLOOD Glucose-119* UreaN-15 Creat-0.6 Na-142 
K-4.1 Cl-106 HCO3-27 AnGap-13
___ 07:40AM BLOOD Calcium-8.5 Phos-3.6 Mg-2.1 Iron-97
___ 07:40AM BLOOD calTIBC-348 Ferritn-47 ___-___

MICROBIOLOGY:  NONE
--------------------

IMAGING:
----------
CARDIAC CATH ___
Coronary Anatomy 
Dominance: Right
* Left Main Coronary Artery: The LMCA is non obstructive
* Left Anterior Descending: 
   The LAD is large vessel and is non-obstructive
   The ___ Diagonal is.
* Circumflex
   The Circumflex has a ___ smooth contoured mid vessel 
stenosis
   The ___ Marginal is non obstructive
* Right Coronary Artery
   The RCA is dominant and is non obstructive
   The Right PDA is non-obstructive

Impressions:
1. Minimal to mild single vessel CAD in this right dominant 
coronary system
2. Normal LV filling pressures

Recommendations
1. No hemodyamically significant CAD identified
2. Continue primary risk factor modification

TTE ___
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF = 65%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis. Trace aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.  
 
Brief Hospital Course:
___ with PMH hyperlipidemia, previous history of moderate 
tobacco use, who presented to OSH with epigastric pain and chest 
discomfort/"muscle spasm pain," transferred to ___ for ___ in 
the setting of mild troponin elevation.

# Atypical Chest Pain
# Abdominal Pain
# Elevated Troponin
# Non-obstructive single vessel CAD
Patient presented with chest pain that she described as "muscle 
spasm" radiating up her neck, associated with periumbilical 
abdominal pain that dissipated without any intervention. 
Nonexertional and intermittent. CT A/P at ___ negative 
for acute abdominal process. Troponin mildly elevated to 0.02, 
peaked at 0.03, and patient was transferred to ___. Had no EKG 
changes. No history of CAD and patient denies classic "chest 
pain." LHC ___ showed "Minimal to mild single vessel CAD in 
this right dominant coronary system." Given no explanation for 
minimally elevated troponin (no recent viral infection, etc) an 
ECHO was performed which was normal (LVEF 65%, no dCHF, no 
valvular abnormalities appreciated). Patient was started on 
aspirin 81 mg daily and atorvastatin 40 mg QHS for primary 
prevention.

# Transaminitis
# History of Hepatic Steatosis
Patient has history of mildly elevated liver enzymes and 
echogenic liver parenchyma seen on u/___. CT A/P with 
homogenous attenuation of the liver. No RUQ tenderness. Iron 
studies were drawn to evaluate for hemochromatosis, were WNL. 

# Hyperglycemia: Patient noted to be hyperglycemic on numerous 
chem panels outpatient and on admission. No diagnosed diabetes. 
Hb A1c 5.8%, pre-diabetic range.

# Dyslipidemia: Started atorvastatin 40 mg QHS.

Transitional issues:
- ongoing outpatient work up of epigastric discomfort
- started Aspirin 81 mg daily, Atorvastatin 40 mg QHS for 
primary prevention
- Hb A1c 5.8%, recommend further discussion outpatient
- please follow LFTs closely now that patient is on a statin

# CODE:  Full (confirmed)
# CONTACT: HCP:  ___ ___ (home); ___ 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. estradiol ___ mL transdermal BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
4.  estradiol ___ mL transdermal BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epigastric pain, not otherwise specified
Cornary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why were you admitted to the hospital?
- high abdominal pain that was new
- mildly abnormal heart enzyme level in the blood

What was done in the hospital?
- cardiac catheterization showed minimal to mild coronary artery 
disease
- you were started on new medications for coronary artery 
disease
- ECHO (ultrasound of the heart) was performed to look at the 
heart muscle and valve function, which was normal
- monitored on telemetry (heart monitor) without abnormalities 
or arrhythmias

What should you do when you go home?
- review your new medications and take as prescribed
- follow up with your primary care doctor in ___ weeks 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___